US05942515
Preparation of 7-chloro-6-(2-chloroethyl)-5-methylpyrazolo[1,5-a]pyrimidine:
To 5.30 g (27.46 mmol) of 6-(2-hydroxyethyl)-5-methylpyrazolo[1,5-a]pyrimidin-7(4H)-one were added 8.5 ml (d=0.726, 61.10 mmol) of triethylamine. While cooling with ice water and stirring under a nitrogen atmosphere, 8.5 ml (d=1.645, 91.19 mmol) of phosphorus oxychloride were added dropwise to the mixture over 2 minutes. The resultant mixture was then stirred for 1 hour in an oil bath heated to 100° C. Thereafter, the reaction mixture was cooled with ice water and dissolved in 100 ml of chloroform, and the solution was poured into 500 ml of ice water. After full shake of the resultant mixture, the chloroform layer was separated, and the water layer was further extracted with chloroform (100 ml×2), and the chloroform layers were put together. After the whole chloroform layer was dried over anhydrous sodium sulfate, the solvent was distilled off. The residue was subjected to column chromatography on silica gel (chloroform) to obtain 3.7 g (yield: 59.8%) of the intended product.

reactant | 6-(2-hydroxyethyl)-5-methylpyrazolo[1,5-a]pyrimidin-7(4H)-one | 27.46 mmol, 5.30 g | OCCC1=C(NC=2N(C1=O)N=CC2)C | C9H11N3O2
reactant | triethylamine | 61.10 mmol, 8.5 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 91.19 mmol, 8.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-6-(2-chloroethyl)-5-methylpyrazolo[1,5-a]pyrimidine | 3.7 g, yield: 59.8% | ClC1=C(C(=NC=2N1N=CC2)C)CCCl | C9H9Cl2N3
